US08975252B2
Potassium carbonate (207 mg), ethyl boric acid (92.4 mg) and bis(diphenylphosphino)ferrocene dichloropalladium(II) (36.6 mg) were added to a solution of tert-butyl {[4-bromo-1-(3-methoxypropyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]methyl}cyclopropylcarbamate (219 mg) in 1,4-dioxane (14.5 ml) and the mixture was stirred under argon atmosphere at 110° C. for 3 hours. The reaction mixture was cooled to room temperature, water was added therein and extracted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium bicarbonate and saturated brine successively, dried over magnesium sulfate and concentrated in vacuo. The resulted residue was purified with a silica gel column chromatography (eluting solvent: n-hexane/ethyl acetate=4/1 to 1/3) to give tert-butyl cyclopropyl{[4-ethyl-1-(3-methoxypropyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]methyl}carbamate (119 mg) as a pale yellow oil.

reactant | Potassium carbonate | 207 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl boric acid | 92.4 mg | C(C)OB(O)O | C2H7BO3
reactant | tert-butyl {[4-bromo-1-(3-methoxypropyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]methyl}cyclopropylcarbamate | 219 mg | BrC1=C2C(=NC=C1)N(C=C2CN(C(OC(C)(C)C)=O)C2CC2)CCCOC | C20H28BrN3O3
reactant | water | O | H2O
solvent | 1,4-dioxane | 14.5 ml | O1CCOCC1 | C4H8O2
catalyst | bis(diphenylphosphino)ferrocene dichloropalladium(II) | 36.6 mg | Cl[Pd]Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | tert-butyl cyclopropyl{[4-ethyl-1-(3-methoxypropyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]methyl}carbamate | 119 mg | C1(CC1)N(C(OC(C)(C)C)=O)CC1=CN(C2=NC=CC(=C21)CC)CCCOC | C22H33N3O3
